US07335660B2
b) 2-[(1S)-6-(4-Thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate
Prepared from 2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol and methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate.

reactant | 2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol | N1(CCSCC1)C=1C=CC2=C(CCO[C@H]2CCO)C1 | C15H21NO2S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | 2-[(1S)-6-(4-Thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)N2CCSCC2 | C16H23NO4S2
